US05608109
Production of 2-[2-(4-cyanophenoxy)-1-phenylethyl]-N-(4-trifluoromethoxyphenyl)hydrazinecarboxamide (compound No. 342)
In a mixed solvent of 15 ml of methanol and 15 ml of tetrahydrofuran was dissolved 0.30 g (0.66 mmole) of 2-[2-(4-cyanophenoxy)-1-phenylethylidene]-N-(4-trifluoromethoxyphenyl)hydrazinecarboxamide, after which 0.20 g (3.2 mmoles) of sodium cyanoborohydride (NaBH3CN) was added to the resulting solution. The resulting mixture was maintained at pH 4 to 6 with hydrogen chloride (a methanolic solution) with stirring. After confirming the completion of the reaction by a thinlayer chromatography, the solvent was distilled off under reduced pressure and water was added to the residue, followed by neutralization with sodium hydrogencarbonate. The desired compound was extracted with ethyl acetate, and the organic layer was washed with water, dried over anhydrous magnesium sulfate, and then distilled under reduced pressure to remove the solvent, whereby 0.32 g of the desired compound was obtained.

reactant | 2-[2-(4-cyanophenoxy)-1-phenylethylidene]-N-(4-trifluoromethoxyphenyl)hydrazinecarboxamide | 0.66 mmole, 0.30 g | C(#N)C1=CC=C(OCC(C2=CC=CC=C2)=NNC(=O)NC2=CC=C(C=C2)OC(F)(F)F)C=C1 | C23H17F3N4O3
reactant | sodium cyanoborohydride | 3.2 mmoles, 0.20 g | C(#N)[BH3-].[Na+]
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 15 ml | CO | CH4O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 2-[2-(4-cyanophenoxy)-1-phenylethyl]-N-(4-trifluoromethoxyphenyl)hydrazinecarboxamide | 0.32 g, Yield: 76% | C(#N)C1=CC=C(OCC(C2=CC=CC=C2)NNC(=O)NC2=CC=C(C=C2)OC(F)(F)F)C=C1 | C23H19F3N4O3
